US04266056
2,4,6-Trichloroaniline (0.04 mol) is reacted with α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide (0.04 mol) by heating at reflux in ethanol to yield α-cyano-β-(2,4,6-trichloroanilino)-N-ethoxycarbonylacrylamide, which is cyclized by heating at reflux in 1,2-dichlorobenzene to yield crude product which is chromatographed on silica eluting with chloroform/acetone (3/1) to 5-cyano-1-(2,4,6-trichlorophenyl)uracil, pale yellow crystals, m.p. 245°-247°.

reactant | 2,4,6-Trichloroaniline | 0.04 mol | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 0.04 mol | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
solvent | ethanol | C(C)O | C2H6O
product | α-cyano-β-(2,4,6-trichloroanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=C(C=C(C=C1Cl)Cl)Cl | C13H10Cl3N3O3
